US08633319B2
N-[4-({2-[[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl](2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide
2-[6-([2-(4-aminophenyl)ethyl]{2-[(4-aminophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione (108.3 mg) was dissolved in DCM (5 ml) and cooled to 0-4° C. in an ice-bath. Hunig's Base (0.227 ml) was added followed by the dropwise addition of mesylchloride (0.051 ml). The reaction was maintained at 0-4° C. for 0.5 h and then allowed to warm slowly to room temperature. After 3 h the reaction mixture was evaporated to dryness and used crude in next step.

reactant | 2-[6-([2-(4-aminophenyl)ethyl]{2-[(4-aminophenyl)oxy]ethyl}amino)hexyl]-1H-isoindole-1,3(2H)-dione | 108.3 mg | NC1=CC=C(C=C1)CCN(CCCCCCN1C(C2=CC=CC=C2C1=O)=O)CCOC1=CC=C(C=C1)N | C30H36N4O3
reactant | Hunig's Base | 0.227 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | mesylchloride | 0.051 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[4-({2-[[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl](2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide | O=C1N(C(C2=CC=CC=C12)=O)CCCCCCN(CCOC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=CC=C(C=C1)NS(=O)(=O)C | C32H40N4O7S2
